US07488739B2
Hydrazine monohydrate was added to a methylene chloride solution of diethyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1,1-difluoroethyl]phosphonate, for stirring at ambient temperature for one hour, to obtain diethyl (2-amino-1,1-difluoroethyl)phosphonate.

reactant | Hydrazine monohydrate | O.NN
reactant | diethyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1,1-difluoroethyl]phosphonate | O=C1N(C(C2=CC=CC=C12)=O)CC(F)(F)P(OCC)(OCC)=O | C14H16F2NO5P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diethyl (2-amino-1,1-difluoroethyl)phosphonate | NCC(F)(F)P(OCC)(OCC)=O | C6H14F2NO3P
